US08895582B2
To a solution of (S)-tert-butyl 4-(4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(isoquinolin-3-ylcarbamoyloxy)pentanoyl)piperazine-1-carboxylate (22 g, 32.8 mmol) in DCM (200 mL) was added TFA (100 mL). The reaction mixture was stirred at RT for 3 h and concentrated. The residue was purified on silica gel column using a mixture of MeOH and DCM. The fractions were concentrated, dissolved in water (200 mL), neutralized to pH 8-9 with 1N NaOH, and extracted with EtOAc (300 mL×3). The organic layer was dried over Na2SO4, filtered, and concentrated to give (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-oxo-5-(piperazin-1-yl)pentyl isoquinolin-3-ylcarbamate (14 g, 75%). LRMS (M+H) m/z 571.1.

reactant | (S)-tert-butyl 4-(4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(isoquinolin-3-ylcarbamoyloxy)pentanoyl)piperazine-1-carboxylate | 32.8 mmol, 22 g | ClC1=C(CNC(N(C)[C@@H](CCC(=O)N2CCN(CC2)C(=O)OC(C)(C)C)COC(NC=2N=CC3=CC=CC=C3C2)=O)=O)C=CC=C1F | C33H40ClFN6O6
reactant | TFA | 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-oxo-5-(piperazin-1-yl)pentyl isoquinolin-3-ylcarbamate | 14 g, 75% | C1=NC(=CC2=CC=CC=C12)NC(OC[C@H](CCC(N1CCNCC1)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C28H32ClFN6O4
